US07375115B2
N-[2 -[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]methanesulfonamide
To a solution of 2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethylamine (409 mg) dissolved in dichloromethane (10 mL) was added triethylamine (0.28 mL). Methanesulfonyl chloride (0.12 mL) was added to the solution under ice cooling, and it was stirred at that temperature for 2 hours. Saturated aqueous sodium bicarbonate solution was added to the solution, and it was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, filtered, and then, the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (silica gel, hexane:ethyl acetate=6:1) to give the title compound (327 mg).

reactant | 2-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]ethylamine | 409 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCN | C26H39NOSi
reactant | triethylamine | 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[2 -[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl]methanesulfonamide | 327 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCNS(=O)(=O)C | C27H41NO3SSi
